US07585875B2
Starting with 5.0 g (36.7 mmol) of 4-methoxyethynylbenzene, 3.85 ml of isobutyryl chloride, and 5.0 g ZnCl2, the corresponding 1-(4-methoxyphenyl)-4-methylpent-1-yn-3-one was prepared using the same procedure as in Example 5(a) to obtain 7.87 g of crude oil intermediate. Starting with 7.5 g (37 mmol) of 1-(4-methoxyphenyl)-4-methylpent-1-yn-3-one, 8.22 g (37 mmol) of 1-aminopyridinium iodide and 11.6 g DBU, 4.84 g (45%) of 1-(2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one was obtained as in Example 5(b). Compound 1021.

reactant | 1-(4-methoxyphenyl)-4-methylpent-1-yn-3-one | 37 mmol, 7.5 g | COC1=CC=C(C=C1)C#CC(C(C)C)=O | C13H14O2
reactant | 1-aminopyridinium iodide | 37 mmol, 8.22 g | [I-].N[N+]1=CC=CC=C1
reactant | DBU | 11.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-(2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 4.84 g, 45% | COC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C(C)C)=O | C18H18N2O2
